US05455250
2-(4-Hydroxy-4-phenylpiperidino)-1-(4-(4-(morpholinomethyl)benzoyloxy)phenyl)-1-propanone
To a mixture of 4-(morpholinomethyl)benzoic acid (3.17 g, 12.3 mmol), 1-(4-hydroxyphenyl)-2-(4-hydroxy-4-phenylpiperidino)-1-propanone (4.0 g, 12.29 mmol), and 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride (2.36 g, 12.31 mmol) in methylene chloride (75 mL) was added 4-dimethylaminopyridine (1.88 g, 15.39 mmol). The heterogeneous mixture was allowed to stir overnight under a nitrogen atmosphere at ambient temperature. The mixture was washed with saturated aqueous bicarbonate (2×50 mL), dried by filtration through phase separating filter paper, and concentrated to a glassy yellow solid. Trituration with ether and hexane yielded 5.17 g, 80% of a light yellow solid product which was suitable for further reaction without additional purification. A sample recrystallized from ethyl acetate/hexane had: m.p. 126°-126.5° C.; NMR (CDCl3) 8.22 (d, J=8.6 Hz, 2H), 8.13 (d, J=7.8 Hz, 2H), 7.47 (t, J=7.3 Hz, 4 H), 7.34-7.19 (m, 5H), 4.13 (q, J=6.6 Hz, 1H), 3.70 (t, J=4.4 Hz, 4H), 3.57 (s, 2H), 2.97-2.79 (m, 2H), 2.67-2.60 (m, 2H), 2.44 (t, J=4.5 Hz, 4H), 2.18-1.98 (m, 2H), 1.78-1.67 (m, 3H), 1.31 (d, J=6.6 Hz, 3H). IR (KBr) 3270, 2960, 2942, 2912, 2830, 2821, 1743, 1682, 1596, 1390, 1273, 1199.

reactant | 4-(morpholinomethyl)benzoic acid | 12.3 mmol, 3.17 g | O1CCN(CC1)CC1=CC=C(C(=O)O)C=C1 | C12H15NO3
reactant | 1-(4-hydroxyphenyl)-2-(4-hydroxy-4-phenylpiperidino)-1-propanone | 12.29 mmol, 4.0 g | OC1=CC=C(C=C1)C(C(C)N1CCC(CC1)(C1=CC=CC=C1)O)=O | C20H23NO3
reactant | 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride | 12.31 mmol, 2.36 g | Cl.C(C)N=C=NCCCN(C)C
solvent | methylene chloride | 75 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 15.39 mmol, 1.88 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 2-(4-Hydroxy-4-phenylpiperidino)-1-(4-(4-(morpholinomethyl)benzoyloxy)phenyl)-1-propanone | 5.17 g, 80% | OC1(CCN(CC1)C(C(=O)C1=CC=C(C=C1)OC(C1=CC=C(C=C1)CN1CCOCC1)=O)C)C1=CC=CC=C1 | C32H36N2O5
